US08729095B2
To an N,N-dimethylformamide solution (3.0 ml) of 7-bromo-1-{1-[(3-fluoro-2′-{[(1R)-3-hydroxy-1-methylpropyl]oxy}biphenyl-4-yl)carbonyl]piperidin-4-yl}-3,3-dimethyl-1H-pyrido[2,3-b][1,4]oxazin-2(3H)-one (135 mg) were added at room temperature 1,1′-bis(diphenylphosphino)ferrocene (239 mg), zinc powder (1.7 mg), zinc cyanide (15.5 mg) and tris(dibenzylideneacetone)dipalladium (19.8 mg), followed by stirring at 130° C. for 3 hours. The reaction solution was poured into a saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was washed sequentially with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to afford 1-{1-[(3-fluoro-2′-{[(1R)-3-hydroxy-1-methylpropyl]oxy}biphenyl-4-yl)carbonyl]piperidin-4-yl}-3,3-dimethyl-2-oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carbonitrile (111 mg).

reactant | 7-bromo-1-{1-[(3-fluoro-2′-{[(1R)-3-hydroxy-1-methylpropyl]oxy}biphenyl-4-yl)carbonyl]piperidin-4-yl}-3,3-dimethyl-1H-pyrido[2,3-b][1,4]oxazin-2(3H)-one | 135 mg | BrC1=CC2=C(OC(C(N2C2CCN(CC2)C(=O)C2=C(C=C(C=C2)C2=C(C=CC=C2)O[C@@H](CCO)C)F)=O)(C)C)N=C1 | C31H33BrFN3O5
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 239 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc | 1.7 mg | [Zn] | Zn
catalyst | zinc cyanide | 15.5 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium | 19.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-{1-[(3-fluoro-2′-{[(1R)-3-hydroxy-1-methylpropyl]oxy}biphenyl-4-yl)carbonyl]piperidin-4-yl}-3,3-dimethyl-2-oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carbonitrile | 111 mg | FC=1C=C(C=CC1C(=O)N1CCC(CC1)N1C2=C(OC(C1=O)(C)C)N=CC(=C2)C#N)C2=C(C=CC=C2)O[C@@H](CCO)C | C32H33FN4O5
